US09387200B2
g) 7-(4-Fluoro-phenyl)-4-hydroxy-3-phenyl-isothiazolo[5,4-c]pyridine-5-carboxylic acid ethyl ester
A mixture of 7-bromo-4-hydroxy-3-phenyl-isothiazolo[5,4-c]pyridine-5-carboxylic acid ethyl ester (53 mg, 0.139 mmol), Pd(PPh3)4 (16.1 mg, 0.0139 mmol), 4-fluorophenylboronic acid (29.3 mg, 0.209 mmol), K2CO3 (57.8 mg, 0.418 mmol), and 1,4-dioxane (1.39 mL) was heated at 140° C. in a microwave oven with stirring for 5 min. After cooling to r. t., the mixture was filtered and the filter cake was washed with CH2Cl2. The filtrate was concentrated in vacuo and the residue was purified by flash column chromatography on silica gel. Elution with 0-20% EtOAc/CH2Cl2, gave the title compound as a white solid (27.6 mg): MS (m/z) 395.2 (M+1).

reactant | 7-bromo-4-hydroxy-3-phenyl-isothiazolo[5,4-c]pyridine-5-carboxylic acid ethyl ester | 0.139 mmol, 53 mg | C(C)OC(=O)C=1C(=C2C(=C(N1)Br)SN=C2C2=CC=CC=C2)O | C15H11BrN2O3S
reactant | 4-fluorophenylboronic acid | 0.209 mmol, 29.3 mg | FC1=CC=C(C=C1)B(O)O | C6H6BFO2
reactant | K2CO3 | 0.418 mmol, 57.8 mg | C(=O)([O-])[O-].[K+].[K+]
catalyst | Pd(PPh3)4 | 0.0139 mmol, 16.1 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | 1,4-dioxane | 1.39 mL | O1CCOCC1 | C4H8O2
product | 7-(4-Fluoro-phenyl)-4-hydroxy-3-phenyl-isothiazolo[5,4-c]pyridine-5-carboxylic acid ethyl ester | 27.6 mg | C(C)OC(=O)C=1C(=C2C(=C(N1)C1=CC=C(C=C1)F)SN=C2C2=CC=CC=C2)O | C21H15FN2O3S
